US06498251B1
Synthesis Example 31a 2-t-Butoxycarbonyl-3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine
A 2.00 g (8.86 mmol) portion of 3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine hydrochloride was dissolved in a mixed solvent of 70 ml chloroform and 10 ml methanol, and the solution was mixed with 3.67 g (26.58 mmol) of potassium carbonate and cooled to 0° C. This was mixed with 2.24 ml (9.75 mmol) of di-t-butyl bicarbonate and stirred overnight at room temperature. The reaction solution was poured into ice-cooled water and extracted with chloroform. The extract was washed with water and dried (Na2SO4), and then the solvent was removed by evaporation under a reduced pressure and the thus obtained oily material was purified by a silica gel column chromatography (250 cc; elution by ethyl acetate-hexane=1:6) to obtain 2.04 g of the title compound (80% in yield).

reactant | 3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine hydrochloride | Cl.C1NCCC2=C1SC1=C2C=CC=C1
reactant | potassium carbonate | 26.58 mmol, 3.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 ml | CO | CH4O
product | 2-t-Butoxycarbonyl-3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine | 2.04 g, 80% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)C1=C(S2)C=CC=C1 | C16H19NO2S
